US20010004670A1
2,2-Difluoro-1-(4-hydroxyphenyl)ethanol
9.3 g (100 mmol) of phenol and 4.9 g (25 mmol) of 50% w/w difluoroacetaldehyde hydrate in water are introduced into a 100 ml reactor. 50 g of MgO are added. The mixture is stirred and is heated at 100° C. for 7 hours. The catalyst is filtered off.

reactant | phenol | 100 mmol, 9.3 g | C1(=CC=CC=C1)O | C6H6O
reactant | difluoroacetaldehyde hydrate | O.FC(C=O)F
solvent | water | O | H2O
product | 2,2-Difluoro-1-(4-hydroxyphenyl)ethanol | FC(C(O)C1=CC=C(C=C1)O)F | C8H8F2O2
